US05948793
83a. 3-((trans-4-hydroxymethyl-1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine
A 1.0 g (4.2 mmol) sample of 3-((-1-methylhydroxymethyl-5-oxo-2-(S)-pyrrolidinyl)methoxy)pyridine, from step 48a above, was dissolved in 15 mL of anhydrous THF, 12.7 mL of BH3 was added, and the mixture was heated at reflux for 2.5 hours. The reaction was quenched with methanol, the solvent was evaporated, and the residue was dissolved in anhydrous ethanol. Cesium fluoride was added, and the resultant solution was stirred under reflux for 16 hr. Evaporation of the solvent and purification of the residue on a silica gel column, eluting with 100:8 to 10.1 chloroform:methanol gave 600 mg of the title compound as a mixture of cis and trans product.

reactant | 3-((-1-methylhydroxymethyl-5-oxo-2-(S)-pyrrolidinyl)methoxy)pyridine | CN1[C@@](CCC1=O)(CO)COC=1C=NC=CC1 | C12H16N2O3
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-((trans-4-hydroxymethyl-1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine | 600 mg | OC[C@@H]1C[C@H](N(C1)C)COC=1C=NC=CC1 | C12H18N2O2
